US07163947B2
A solution of 2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-amine (1.00 g, 4.13 mmol) in 20 mL of toluene and 5 mL of isopropanol was treated with isovaleraldehyde (0.94 mL, 8.76 mmol) and pyridinium p-toluenesulfonate (0.052 g, 0.21 mmol) and the reaction mixture was heated to reflux under an atmosphere of nitrogen. After 15 h, the reaction mixture was concentrated under reduced pressure to yield a brown oil. The oil was dissolved in CHCl3 and washed with water (2×) and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(3-methylbutylidene)amine (1.28 g) as a dark orange oil.

reactant | 2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-amine | 4.13 mmol, 1.00 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N | C13H14N4O
reactant | isovaleraldehyde | 8.76 mmol, 0.94 mL | C(CC(C)C)=O | C5H10O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridinium p-toluenesulfonate | 0.21 mmol, 0.052 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(3-methylbutylidene)amine | 1.28 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N=CCC(C)C | C18H22N4O
